US08895744B2
N-(3-(6-(4-methoxyphenyl)-9H-pyrido[2,3-b]indol-3-yl)phenyl)benzenesulfonamide (R360)
To a solution of 3-(6-(4-methoxyphenyl)-9H-pyrido[2,3-b]indol-3-yl)benzenamine (23 mg, 0.06 mmol, 1 equiv.), in anhydrous pyridine (0.300 ml), benzenesulfonyl chloride (0.009 ml) is added under argon. The reaction is carried out at room temperature for 3 hours and is then quenched with H2O (5 ml). The aqueous layer is extracted with AcOEt (3×5 ml) and CH2Cl2 (5 ml). The organic layers are dried over MgSO4 and concentrated under reduced pressure. The crude product is purified over silica gel chromatography (eluant CH2Cl2/AcOEt 7:3) to afford the product as a white solid (15 mg, 0.03 mmol) in 50% yield.

reactant | 3-(6-(4-methoxyphenyl)-9H-pyrido[2,3-b]indol-3-yl)benzenamine | 0.06 mmol, 23 mg, 1 equiv. | COC1=CC=C(C=C1)C=1C=C2C3=C(NC2=CC1)N=CC(=C3)C=3C=C(C=CC3)N | C24H19N3O
reactant | benzenesulfonyl chloride | 0.009 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | pyridine | 0.300 ml | N1=CC=CC=C1 | C5H5N
product | N-(3-(6-(4-methoxyphenyl)-9H-pyrido[2,3-b]indol-3-yl)phenyl)benzenesulfonamide | 0.03 mmol, 15 mg, 50% yield | COC1=CC=C(C=C1)C=1C=C2C3=C(NC2=CC1)N=CC(=C3)C=3C=C(C=CC3)NS(=O)(=O)C3=CC=CC=C3 | C30H23N3O3S
